Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal Labs, Transfer 
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ w/ no PMH p/w N/V/D and presents as a transfer elevated 
LFTs,
CBD dilation, and image findings of enterocolitis.

Patient describes a 6-day history of nausea, vomiting and
nonbloody diarrhea. She did not have any pain associated with 
the
symptoms. Given that her symptoms are improving yesterday, she
went to ___ and was given Zofran with improvement. She
was febrile of 102 and there are concerns for urinary tract
infection. They sent off an urinalysis which was later called
back stating that there was blood in her urine but no infection
and that she should go to the emergency department for further
evaluation. Patient went to the ED at ___ and there had
blood work concerning for elevated T bili 2.5, hyponatremia 128,
potassium 2.8. She had a CT scan done which showed dilation of
the common bile duct and pancreatic ducts along with signs of
cirrhosis. No stone or mass are seen. MRCP is recommended for
further evaluation. CT also showed possible cystitis however UA
at outside hospital with no evidence of UTI. CT scan also shows
possible enteritis/proctocolitis. Patient was given Zosyn and
transferred here for further care. Patient denies any chest pain
or shortness of breath. Denies any abdominal pain. Denies any
dysuria hematuria currently. No headache or vision changes.
Denies any falls or trauma. Patient does admit to drinking
alcohol on a nearly daily basis. Last drink 6 days ago. No
history of withdrawal seizures. Denies any major weight loss.

 
Past Medical History:
None
 
Social History:
___
Family History:
Father w/ stomach/esophageal cancer, 
MGM w/ colon cancer 
Denies family history of MI/CVA/blood clots.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Vital Signs:  T 98.5 BP 102 / 69 HR 91 RR 88 99% room air
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM
======================
Vital Signs: ___ 1210 Temp: 98.2 PO BP: 98/66 HR: 91 RR: 16
O2 sat: 99% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  

 
Pertinent Results:
ADMISSION LAB RESULTS
====================
___ 05:33AM BLOOD WBC-15.8* RBC-2.24* Hgb-9.0* Hct-25.8* 
MCV-115* MCH-40.2* MCHC-34.9 RDW-14.6 RDWSD-60.4* Plt ___
___ 05:33AM BLOOD Glucose-145* UreaN-11 Creat-0.4 Na-138 
K-3.8 Cl-97 HCO3-18* AnGap-23*
___ 05:33AM BLOOD ALT-40 AST-50* AlkPhos-90 Amylase-76 
TotBili-1.1 DirBili-<0.2 IndBili-1.1
___ 05:33AM BLOOD Albumin-2.8* Calcium-7.9* Phos-2.7 Mg-1.9 
Iron-148

DISCHARGE LAB RESULTS
===================
___ 06:02AM BLOOD WBC-5.9 RBC-2.24* Hgb-8.6* Hct-25.6* 
MCV-114* MCH-38.4* MCHC-33.6 RDW-14.1 RDWSD-58.0* Plt ___
___ 06:02AM BLOOD Glucose-106* UreaN-4* Creat-0.3* Na-137 
K-3.8 Cl-101 HCO3-26 AnGap-10
___ 06:02AM BLOOD ALT-37 AST-64* LD(LDH)-172 AlkPhos-78 
TotBili-0.3

IMAGING
=======
MRCP ___:
1. Marked decrease in hepatic and splenic signals with T2* 
weighting suggesting iron overload. This pattern is more 
suggestive of secondary than primary form of hemochromatosis. 
2. Mild biliary dilatation, not necessarily significant 
clinically however. No evidence for stones or solid masses. 
Correlation with liver function tests is recommended. Spasm at 
the sphincter of Oddi is not excluded.

___ EGD:
- No evidence of esophageal varices
- Grade C esophagitis consistent with ___
- Erythema in antrum which is non erosive gastritis
- Evidence of duodenitis

MICROBIOLOGY:
==============
___ 9:40 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      Reported to and read back by ___ AT 1809 
ON ___. 
      POSITIVE. 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Final ___: 
      NEGATIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a low likelihood of C. difficile 
infection
         (CDI). 

___ 9:39 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 9:40 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found.

 
Brief Hospital Course:
Patient Summary for Admission:
================================
Ms. ___ is a ___ w/ no PMH p/w N/V/D and presents as a 
transfer elevated LFTs, CBD dilation, and image findings of 
enterocolitis consistent found to have C. Diff colitis and 
likely new diagnosis of cirrhosis.

ACUTE ISSUES ADDRESSED:
#C diff colitis: Patient presented with nausea, vomiting and 
diarrhea. She notably testing positive for the C. Diff PCR in 
stool but negative for toxin. However on CT AP imaging she had 
evidence of enteritis/proctocolitis. In the setting of active 
diarrhea and imaging findings, patient started on a 14 day 
course of PO Vancomcyin with end date ___.

#CBD Dilation: CT AP completed ___ at ___ notable 
for CBD dilation. In the setting of reported fever, initial 
concern for sepsis related to this finding. Ms. ___ 
received Vancomycin and Zosyn while at ___ however MRCP 
completed ___ demonstrated only mild biliary dilatation, not 
necessarily significant clinically and no obstructing stones, 
however. She had no leukocytosis, fever, hypotension while at 
___ as thus antibiotics were discontinued ___ and patient 
remained stable.

#Transaminitis
#Concern for new diagnosis of Cirrhosis:
CT imaging with findings concerning for cirrhosis of unclear 
etiology. In the setting of CBD dilation detailed above, MRCP 
was pursued. This was notable for evidence of iron overload. The 
inpatient hepatology team was consulted and recommended 
outpatient genetic testing for possible hemochromatosis. Ms. 
___ has possible other etiologies for cirrhosis including 
NASH vs ETOH use. Hepatitis serologies were negative while 
inpatient. She underwent a screening EGD on ___ which 
demonstrated no varices. She will require outpatient follow up 
through the ___ gene testing and Hepatitis A and B 
vaccinations as an outpatient.

#Candidal Esophagitis: Patient underwent EGD ___ with evidence 
of Grade C candidal esophagitis and started on Fluconazole 400mg 
on ___ followed by 200mg daily for a 14 day course.

#Macrocytic anemia: Likely in the setting of underlying liver
disease. Hemoglobin remained stable between ___ during admission 
with no active signs of bleeding. Low folate noted with level of 
<2 and was started on folate supplementation. 

#Thrombocytopenia: Likely from liver disease and remained stable 
during admission.

Transitional Issues:
Pending Labs at Discharge
___ 14:50 STOOL FECAL CULTURE; CAMPYLOBACTER CULTURE; FECAL 
CULTURE - R/O VIBRIO; FECAL CULTURE - R/O YERSINIA
___ 07:54 BLOOD CULTURE Blood Culture, Routine
___ 05:38 BLOOD CULTURE Blood Culture, Routine

[ ] Vancomycin to continue 125mg QID, end date ___
[ ] Fluconazole course 200mg for 13 days, end date ___, 
consider repeat EGD as outpatient
[ ] HFE Genetic testing for hemochromatosis recommended
[ ] Repeat folate level in 3 months time in setting of repletion
[ ] Recommend Hepatitis A and B vaccination completed as an 
outpatient
[ ] Liver follow up required for new diagnosis of cirrhosis 
based on imaging findings.

Medication Changes:
- New medications: Vancomycin 125mg QID, Fluconazole 200mg 
daily, Folic Acid 1mg daily, Multivitamin 1 tablet daily
- Stopped Medications: None
- Changed Medications: None

Code Status: Full Code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Fluconazole 200 mg PO Q24H  
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*42 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
===================
New diagnosis of Cirrhosis
C. Diff Colitis
Candidal Esophagitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing ___ as your site of care!

Why was I admitted?
-You were admitted because you were having nausea, vomiting and 
diarrhea.

What was done for me while I was in the hospital?
- We took multiple images of your abdomen including a CT scan 
and MRCP. These scans showed some inflammation in your gut and 
scarring in your liver called cirrhosis.
- We found that you have an infection in your stool called C. 
Difficile which is being treated with oral vancomycin.
- Our liver team evaluated you for this new finding of a 
condition called Cirrhosis.

What should I do when I leave the hospital?
- Please continue taking your Vancomycin, the last day of 
antibiotics is ___.
- You will follow up in the ___ ongoing care.

We wish you the best
 
Followup Instructions:
___